US09428505B2
A mixture of 1-(4-bromo-3,5-dimethylphenyl)-4-imino-1,3-diazaspiro[4.4]nonan-2-one (the crude product obtained in the previous reaction) in acetic acid (1.0 mL) and water (0.25 mL) was stirred for 1.5 hours at 65° C. under nitrogen atmosphere. After further addition of acetic acid (1.0 mL) and water (0.25 mL), the mixture was stirred for 17 hours at 65° C. under nitrogen atmosphere. The reaction mixture was cooled, followed by dilution with water and adjustment of its pH to 8 using a saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-hexane) to afford 1-(4-bromo-3,5-dimethylphenyl)-1,3-diazaspiro[4.4]nonane-2,4-dione (121 mg).

reactant | 1-(4-bromo-3,5-dimethylphenyl)-4-imino-1,3-diazaspiro[4.4]nonan-2-one | BrC1=C(C=C(C=C1C)N1C(NC(C12CCCC2)=N)=O)C | C15H18BrN3O
reactant | water | 0.25 mL | O | H2O
reactant | water | 0.25 mL | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
product | 1-(4-bromo-3,5-dimethylphenyl)-1,3-diazaspiro[4.4]nonane-2,4-dione | 121 mg | BrC1=C(C=C(C=C1C)N1C(NC(C12CCCC2)=O)=O)C | C15H17BrN2O2
